Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
___ -  Coronary artery bypass grafts x2 (LIMA-LAD, 
SVG-Ramus; Endovascular saphenous vein harvest LLE

 
History of Present Illness:
Mr. ___ is a ___ year old man with a history of hyperlipidemia 
and morbid obesity. He was recently evaluated for exertional 
chest pain. Over the past month he has noted chest after ___ 
minutes of walking on the treadmill, which resolved with rest. 
Stress test revealed ischemia involving the LAD territory, 
decreased ejection fraction (31%) with hypokinesis of the apex, 
distal anterior wall, distal septum. There was evidence of post 
ischemic stunning of the distal septum with a decline in LVEF 
after stress. He was transferred to ___ for coronary 
angiogram. The study demonstrated two vessel coronary artery 
disease. He was referred to Dr. ___ surgical 
revascularization.  

 
Past Medical History:
Benign Prostatic Hyperplasia 
Cataracts 
Gastroesophageal Reflux Disease 
Hyperlipidemia
Osteoarthritis
Syncope, multiple but none since ___ 
Varicose Veins
 
Social History:
___
Family History:
No history of premature coronary artery disease. 
 
Physical Exam:
HR: 63 SR.  BP: 141/76 mmHg.  RR: 99% RA 
Ht: 69"  Wt: 325 pounds

General:
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur []  
Abdomen: Soft [x] non-distended [x] non-tender [x] bowel sounds 
+[x]
Extremities: Warm [x], well-perfused [x]  Edema [x] 1+ ___
Varicosities: bilateral
Neuro: Grossly intact [x]
Pulses:
Femoral      Right: t   Left: t
DP           Right: t   Left: t
___           Right: t   Left: t
Radial       Right: t   Left: t

Carotid Bruit:        Right:-    Left:-

Discharge PE:
___, 119/77, HR:72, RR:18, 93% on 1L, FSBS:110-124 
wt:143.2kg
___ (+)BM
General:A&O x 3, NAD
___: RRR
Lungs: (L)basilar crackles
Abd: obese, benign
Extr:LLE inc C/D/I
Wounds: sternum C/D/I, prevena intact, stable, no rock/ click

 
Pertinent Results:
Cardiac Catheterization ___
Dominance: Right
LMCA: normal
LAD: occluded at its ostium. The entire LAD fills via 
collaterals from the RCA. 
LCX: small normal vessel.
RI: moderately large vessel with 80% ostial stenosis.
RCA: normal

Transthoracic Echocardiogram ___
The left atrium is mildly dilated. No atrial septal defect is 
seen by 2D or color Doppler. The estimated right atrial pressure 
is ___ mmHg. Left ventricular wall thicknesses and cavity size 
are normal. Due to suboptimal technical quality, a focal wall 
motion abnormality cannot be fully excluded. Overall left 
ventricular systolic function is low normal (LVEF 50-55%). 
Tissue Doppler imaging suggests a normal left ventricular 
filling pressure (PCWP<12mmHg). with normal free wall 
contractility. The aortic root is mildly dilated at the sinus 
level. The ascending aorta is mildly dilated. The number of 
aortic valve leaflets cannot be determined. The aortic valve is 
not well seen. There is no aortic valve stenosis. No aortic 
regurgitation is seen. The mitral valve leaflets are not well 
seen. Trivial mitral regurgitation is seen. The estimated 
pulmonary artery systolic pressure is normal. There is no 
pericardial effusion. There is an anterior space which most 
likely represents a prominent fat pad. 

IMPRESSION: Suboptimal image quality. Low-normal global left 
ventricular systolic function. Mildly dilated aortic root and 
ascending aorta. No clinically significant valvular 
regurgitation or stenosis. Normal pulmonary artery systolic 
pressure.  

Vein Mapping ___
Patent right great saphenous vein from the groin to the knee and 
patent left great saphenous vein from the groin to the ankle. 
See the scanned worksheet for detailed diameter locations. 

Carotid Ultrasound ___
Right ICA no stenosis.  Left ICA less than 40% stenosis.

Transesophageal Echocardiogram ___
Pre-CPB:
The left atrium is moderately dilated. A left to right shunt is 
seen across a small PFO. Left ventricular wall thicknesses are 
normal. The left ventricular cavity size is normal. Overall left 
ventricular systolic function is normal (LVEF>55%). The 
calculated cardiac output by continuity equation is 4L/min. 
Right ventricular chamber size and free wall motion are normal. 
The ascending aorta is mildly dilated. The descending thoracic 
aorta is mildly dilated. There are simple atheroma in the 
descending thoracic aorta. No thoracic aortic dissection is 
seen. The aortic valve leaflets (3) are mildly thickened. No 
aortic regurgitation is seen. The mitral valve appears 
structurally normal with trivial mitral regurgitation. Dr. ___ 
was notified in person of the results at time of study.

Post-CPB:
Biventricular systolic function is preserved. The estimated LVEF 
is >55%. The calculated cardiac output is 5.4L/min. The MR 
remains trace. Other valvular function is preserved. There is no 
evidence of aortic dissection.

___ 05:06AM BLOOD WBC-7.9 RBC-2.65* Hgb-8.6* Hct-25.6* 
MCV-97 MCH-32.5* MCHC-33.6 RDW-12.8 RDWSD-45.1 Plt ___
___ 11:30AM BLOOD WBC-5.9 RBC-3.71* Hgb-12.0* Hct-35.2* 
MCV-95 MCH-32.3* MCHC-34.1 RDW-12.6 RDWSD-43.6 Plt ___
___ 01:48PM BLOOD ___ PTT-23.1* ___
___ 11:30AM BLOOD ___
___ 05:58AM BLOOD UreaN-31* Creat-1.2 K-3.9
___ 05:06AM BLOOD Glucose-112* UreaN-33* Creat-1.1 Na-145 
K-4.1 Cl-104 HCO3-31 AnGap-10
___ 11:30AM BLOOD Glucose-103* UreaN-14 Creat-1.1 Na-140 
K-4.4 Cl-103 HCO3-26 AnGap-11
 
Brief Hospital Course:
___  was admitted on ___ and underwent routine 
preoperative testing and evaluation. He remained hemodynamically 
stable and was taken to the operating room on ___. He 
underwent coronary artery bypass grafting x 2  (LIMA-LAD,
SVG-Ramus ; Endovascular saphenous vein harvest LLE). Please see 
operative note for full details. A Prevena dressing was placed 
to aid in wound healing. He tolerated the procedure well and was 
transferred to the CVICU in stable condition for recovery and 
invasive monitoring. 
  
He weaned from sedation, awoke neurologically intact and was 
extubated on POD 1. Beta blocker was initiated and he was 
diuresed toward his preoperative weight. He remained 
hemodynamically stable and was transferred to the telemetry 
floor for further recovery. Chest tubes and pacing wires were 
discontinued per protocol without incident. He was evaluated by 
the physical therapy service for assistance with strength and 
mobility. By the time of discharge on POD #5 he was ambulating 
with assistance, the wound was healing, and pain was controlled 
with oral analgesics. He was discharged to  ___ and 
___ in good condition with appropriate follow up 
instructions.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Finasteride 5 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
5. Terazosin 5 mg PO QHS 
6. terbinafine HCl 250 mg oral DAILY 
7. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Bisacodyl ___AILY:PRN constipation  
3.  Docusate Sodium 100 mg PO BID  
4.  Furosemide 40 mg PO DAILY Duration: 10 Days  
5.  Metoprolol Tartrate 12.5 mg PO BID 
Hold for HR<60,SBP<90  
6.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain: 
moderate/severe 
RX *oxycodone 5 mg ___ tablet(s) by mouth q4h prn Disp #*15 
Tablet Refills:*0 
7.  Polyethylene Glycol 17 g PO DAILY  
8.  Potassium Chloride 20 mEq PO DAILY Duration: 10 Days  
9.  Ranitidine 150 mg PO BID  
10.  Aspirin EC 81 mg PO DAILY  
11.  Atorvastatin 80 mg PO QPM  
12.  Finasteride 5 mg PO DAILY  
13.  Terazosin 5 mg PO QHS  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
CAD 
Hyperlipidemia
Morbid obesity
Multiple prior syncopal episodes, none since ___. Has never had
workup
GERD
Osteoarthritis
BPH

Past Surgical History:
Right knee replacement
Varicose vein surgery right leg
Bilateral cataracts s/p surgery with lens implant 

 
Discharge Condition:
Alert and oriented x3 non-focal 
Ambulating, deconditioned
Incisional pain managed with oral analgesia

Incisions: 
Sternal - healing well, no erythema or drainage 
Leg Left - healing well, no erythema or drainage
trace Edema 

 
Discharge Instructions:
 Please shower daily including washing incisions gently with 
mild soap, no baths or swimming until cleared by surgeon. Look 
at your incisions daily for redness or drainage
Please NO lotions, cream, powder, or ointments to incisions 
 Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the 
chart.
****call MD if weight goes up more than 3 lbs in 24 hours or 5 
lbs over  5 days****.
 No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive 
 No lifting more than 10 pounds for 10 weeks
 
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___